US04987132
N-tert-Butoxycarbonyl-2-(3-pyridyl)thiazolidine-4-carboxylic acid and L-methioninamide hydrochloride were used as the starting materials and treated in the same manner as in Example 4 to give [2-(3-pyridyl)thiazolidine-4-carbonyl]-L-methioninamide dihydrochloride. Melting point 131° C.

reactant | N-tert-Butoxycarbonyl-2-(3-pyridyl)thiazolidine-4-carboxylic acid | C(C)(C)(C)OC(=O)N1C(SCC1C(=O)O)C=1C=NC=CC1 | C14H18N2O4S
reactant | L-methioninamide hydrochloride | Cl.N[C@@H](CCSC)C(=O)N
product | [2-(3-pyridyl)thiazolidine-4-carbonyl]-L-methioninamide dihydrochloride | Cl.Cl.N1=CC(=CC=C1)C1SCC(N1)C(=O)N[C@@H](CCSC)C(=O)N | InChI=1S/C14H20N4O2S2.2ClH/c1-21-6-4-10(12(15)19)17-13(20)11-8-22-14(18-11)9-3-2-5-16-7-9;;/h2-3,5,7,10-11,14,18H,4,6,8H2,1H3,(H2,15,19)(H,17,20);2*1H/t10-,11?,14?;;/m0../s1
